US07541482B2
Nitrogen gas was fed from the supply line 7 at 0.04 NL/min, and a feed pump was used to start feeding the starting material prepared as described above at 3 g/Hr from the supply line 4, and feeding the reactant 2-ethyl-1-hexanol (manufactured by Aldrich Chemical Co., U.S.A., anhydrous 99.6%) at 17 g/Hr from the supply line 8. The holding time in the reactor was 15 minutes. Low boiling point substances, including water, began to be extracted in gaseous form from the extraction vent line 5 and high boiling point components began to flow out from the extraction line 6. Continuous feeding and continuous extraction operation was continued in this state for 2 hours. Analysis of the liquid extracted from the extraction line 6 showed that, using dibutyltin oxide as a reference, the liquid contained a dibutyltin alkoxide consisting of about a 45% yield of dibutyl-bis(2-ethyl-hexyloxy)tin and about 55% of 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-hexyloxy)-distannoxane. Tributyltin(2-ethyl-butyloxide) had a yield of 0.3%. Upon cooling of the gas phase extracted from the vent line, a two-layer transparent liquid was obtained, in which moisture was present. The dehydration rate in the column reactor was 0.0018 mol/Hr, which was greater than the value 0.000058 mol/Hr calculated from expression (16).

reactant | 2-ethyl-1-hexanol | C(C)C(CO)CCCC | C8H18O
reactant | 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-hexyloxy)-distannoxane | C(CCC)[Sn](O[Sn](OCC(CCCC)CC)(CCCC)CCCC)(OCC(CCCC)CC)CCCC
solvent | water | O | H2O
product | dibutyl-bis(2-ethyl-hexyloxy)tin | 45% yield | C(CCC)[Sn](OCC(CCCC)CC)(OCC(CCCC)CC)CCCC | InChI=1S/2C8H17O.2C4H9.Sn/c2*1-3-5-6-8(4-2)7-9;2*1-3-4-2;/h2*8H,3-7H2,1-2H3;2*1,3-4H2,2H3;/q2*-1;;;+2
